* SpiceNetList
* 
* Exported from untitled.sch at 5/19/2021 11:48 AM
* 
* EAGLE Version 9.5.0 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 RSHUNT=10e9 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
V_V1 N_3 0 12V 
R_R1 N_3 N_4 1k 
R_R3 N_2 0 1k 
R_R2 N_2 N_4 1k 

* --------- simulation ---------


.control
set filetype=ascii
TRAN 0.018 10 1 0.018 
write untitled.sch.sim V(N_2) V(N_3) V(N_4)  V(0) I(V_V1)
.endc

.END










