* SpiceNetList
* 
* Exported from untitled.sch at 5/19/2021 11:48 AM
* 
* EAGLE Version 9.5.0 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
V_V1 N_3 0 12V 
R_R1 N_3 N_4 1k 
R_R3 N_2 0 1k 
R_R2 N_2 N_4 1k 

* --------- simulation ---------
.print DC V(N_2) V(N_3) V(N_4) Vp(N_4) V(0) I(V_V1)
.print AC V(N_2) V(N_3) V(N_4) Vp(N_4) V(0) I(V_V1)
.print TRAN V(N_2) V(N_3) V(N_4) Vp(N_4) V(0) I(V_V1)
.END










